US06479531B1
3-{[2-(2-Adamantan-1-yl-ethyl)-5-o-tolyl-1H-pyrrole-3-carbonyl]-amino}-benzoic Acid
The title compound was synthesised following the procedure of Example 1, with the modification that 5-adamantan-1-yl-3-oxo-pentanoic acid ethyl ester was used instead of 4-adamantan-1-yl-3-oxo-butyric acid ethyl ester, and o-methyl-2-bromo-1-phenyl-ethanone was used instead of 2-bromo-1-phenyl-ethanone in step a, and 3-amino-benzoic acid benzyl ester replaced 5-amino-isophthalic acid dibenzyl ester in step d. 1H NMR (300 MHz, d6-DMSO) 13.0 (1H, br s), 11.22 (1H, s), 9.51 (1H, s), 8.32 (1H, s), 8.02 (1H, d), 7.60 (1H, d), 7.40 (2H, m), 7.25 (3H, m), 6.88 (1H, s), 2.95 (2H, m), 2.45 (3H, s), 1.94 (3H, s), 1.64 (6H, m), 1.53 (6H, s), 1.36 (2H, m). The acid was converted to the N-methyl-D-glucamine salt and lyophilised from water/dioxan. Found: C, 64.72; H, 7.77; N, 5.87%. C38H51N3O8.1.5 H2O requires: C, 64.72; H, 7.72, N, 5.96%.

reactant | 5-adamantan-1-yl-3-oxo-pentanoic acid ethyl ester | C(C)OC(CC(CCC12CC3CC(CC(C1)C3)C2)=O)=O | C17H26O3
reactant | o-methyl-2-bromo-1-phenyl-ethanone | CC1=C(C=CC=C1)C(CBr)=O | C9H9BrO
reactant | 3-amino-benzoic acid benzyl ester | C(C1=CC=CC=C1)OC(C1=CC(=CC=C1)N)=O | C14H13NO2
reactant | 5-amino-isophthalic acid dibenzyl ester | C(C1=CC=CC=C1)OC(C1=CC(C(=O)OCC2=CC=CC=C2)=CC(=C1)N)=O | C22H19NO4
reactant | N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | H2O | O | H2O
solvent | water dioxan | O.O1CCOCC1
product | 3-{[2-(2-Adamantan-1-yl-ethyl)-5-o-tolyl-1H-pyrrole-3-carbonyl]-amino}-benzoic Acid | C12(CC3CC(CC(C1)C3)C2)CCC=2NC(=CC2C(=O)NC=2C=C(C(=O)O)C=CC2)C2=C(C=CC=C2)C | C31H34N2O3
